US07572820B2
B. 4-Chloro-2-ethyl-1-({5-[3-(trifluoromethyl)phenyl]-1,2,4-oxadiazol-3-yl}methyl)-1H-benzimidazole-5-carbonitrile
4-Chloro-2-ethyl-1H-benzimidazole-5-carbonitrile (0.014 g, 0.068 mmol), Cs2CO3 (0.033 g, 0.102 mmol), and 3-(chloromethyl)-5-[3-(trifluoromethyl)phenyl]-1,2,4-oxadiazole (0.027 g, 0.102 mmol) were combined in DMF (10 mL) and heated to 90° C. for 30 min. The cooled reaction mixture was partitioned between Et2O and water. The organic portion was washed with brine, dried over Na2SO4, filtered, and concentrated in vacuo. Purification (SiO2, EtOAc/hexanes) afforded the title compound (0.0037 g): MS (ESI) m/z 432 (M+1).

reactant | 4-Chloro-2-ethyl-1H-benzimidazole-5-carbonitrile | 0.068 mmol, 0.014 g | ClC1=C(C=CC=2NC(=NC21)CC)C#N | C10H8ClN3
reactant | Cs2CO3 | 0.102 mmol, 0.033 g | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | 3-(chloromethyl)-5-[3-(trifluoromethyl)phenyl]-1,2,4-oxadiazole | 0.102 mmol, 0.027 g | ClCC1=NOC(=N1)C1=CC(=CC=C1)C(F)(F)F | C10H6ClF3N2O
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | 4-Chloro-2-ethyl-1-({5-[3-(trifluoromethyl)phenyl]-1,2,4-oxadiazol-3-yl}methyl)-1H-benzimidazole-5-carbonitrile | 0.0037 g | ClC1=C(C=CC=2N(C(=NC21)CC)CC2=NOC(=N2)C2=CC(=CC=C2)C(F)(F)F)C#N | C20H13ClF3N5O
